US07696213B2
In a sealed tube a solution of 5-bromo-N4-(trans-4-methoxycyclohexyl)-6-methylpyrimidine-2,4-diamine (811 mg, 2.57 mmol) and ethyl acrylate (559 uL, 5.15 mmol) in triethylamine (25 mL) was bubbled with argon for ˜10 minutes. Tetrakis(triphenylphosphin)-palladium (0) (297 mg, 0.257 mmol) was added, the vial was sealed, and the reaction was heated to 130° C. overnight. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (450 mL), washed with water, 0.1 N hydrochloric acid, brine, dried (MgSO4), filtered and concentrated. The crude product was purified by flash chromatography eluting with chloroform/methanol (0-10%) to afford (E)-ethyl 3-(2-amino-4-(trans-4-methoxycyclohexylamino)-6-methylpyrimidin-5-yl)acrylate (674 mg, 78%).

reactant | 5-bromo-N4-(trans-4-methoxycyclohexyl)-6-methylpyrimidine-2,4-diamine | 2.57 mmol, 811 mg | BrC=1C(=NC(=NC1C)N)N[C@@H]1CC[C@H](CC1)OC | C12H19BrN4O
reactant | ethyl acrylate | 5.15 mmol, 559 uL | C(C=C)(=O)OCC | C5H8O2
solvent | triethylamine | 25 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 450 mL | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphin)-palladium (0) | 0.257 mmol, 297 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | (E)-ethyl 3-(2-amino-4-(trans-4-methoxycyclohexylamino)-6-methylpyrimidin-5-yl)acrylate | 674 mg, 78% | NC1=NC(=C(C(=N1)N[C@@H]1CC[C@H](CC1)OC)/C=C/C(=O)OCC)C | C17H26N4O3
